US06191146B1
a) 7-Nitro-1-tetralone oxime
7-Nitro-1-tetralone (2.00 g, 10.4 mmol) was dissolved in ethanol (20 mL) and was added to NH4OH (1.64 mL, 16.6 mmol) and NaOAc (1.71 g, 20.8 mmol) in H2O (30 mL). After 2 h at 65° C., the solvent was removed under reduced pressure and the residue was titurated with H2O. The precipitate was removed by filtration and dried under vacuum to give 1.99 g (93%) of the desired material as a white solid. MS (ES-) m/z 205 [M−H]−.

reactant | 7-Nitro-1-tetralone | 10.4 mmol, 2.00 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | NH4OH | 16.6 mmol, 1.64 mL | [NH4+].[OH-]
reactant | NaOAc | 20.8 mmol, 1.71 g | CC(=O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | H2O | 30 mL | O | H2O
product | 7-Nitro-1-tetralone oxime | 1.99 g, 93% | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=NO | C10H10N2O3
